Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Heparin Agents
 
Attending: ___.
 
Chief Complaint:
Intermittant disequilibrium/vertigo, hearing loss of the right 
ear, change in headache pattern. 
 
Major Surgical or Invasive Procedure:
Suboccipital ___
Suboccipital crani for residual ___

 
History of Present Illness:
Patient is a ___ who had been suffering with intermittitant 
disequilibrium 
 
Past Medical History:
allergic rhinitis
s/p bil knee surgery ___ patellar subluxation ___
deviated nasal septum 
migraine headaches
h/o right foot dorsal bone spur s/p exostectomy 
 
Social History:
___
Family History:
sister with ___
 
Physical Exam:
101.3 97.4 ___ 18 95%RA ___ 111-154

AAOx3
follows commands
eye open
unable to close right eye
unalbe to abduct right eye
PERRL 2->1
Right sided droop, 
Facial sensation intact
Tongue shifted to left on protrusion
No pronator drift
Sensations intact to light touch
Motor: strength ___ throughout

 
Pertinent Results:
Labs on Admission:
___ 02:04AM BLOOD WBC-12.7*# RBC-4.12* Hgb-12.6*# 
Hct-35.2*# MCV-85 MCH-30.6 MCHC-35.9* RDW-13.8 Plt ___
___ 02:04AM BLOOD ___ PTT-24.5 ___
___ 02:04AM BLOOD Glucose-169* UreaN-14 Creat-1.0 Na-143 
K-3.7 Cl-109* HCO3-22 AnGap-16
___ 02:04AM BLOOD Calcium-8.1* Phos-2.6* Mg-1.7

Labs on Discharge:
___ 06:48AM BLOOD WBC-18.1* RBC-4.24* Hgb-12.8* Hct-36.2* 
MCV-86 MCH-30.3 MCHC-35.4* RDW-13.6 Plt ___
___ 06:48AM BLOOD ___ PTT-24.9 ___
___ 06:48AM BLOOD Glucose-121* UreaN-14 Creat-0.7 Na-136 
K-4.0 Cl-100 HCO3-25 AnGap-15
___ 06:48AM BLOOD Calcium-8.8 Phos-2.6* Mg-1.8

Pathology Report ___:
The specimen shows fragments of densely gliotic brain, in some 
places recognizable as atrophic cerebellum, with moderately 
cellular coarsely fibrillary background and atypical nuclei. In 
block B there is an area of round nuclei with cleared cytoplasm, 
and prominent capillaries, with an oligodendroglial appearance. 
There are a few small cysts with Alcian blue staining mucinous 
material. Scattered microcalcifications are present. There are 
scattered ___ fibers, and rare eosinophilic granular 
bodies.  Blood vessels with thick hyalinized walls are present. 
Mitoses are rare. There are no anaplastic features.

EKG ___:
Sinus rhythm
Modest diffuse nonspecific ST-T wave changes
Since previous tracing of ___, rate faster, and ST-T wave 
changes present.

Imaging:
MRI Head ___:
IMPRESSION:
Cystic mass with enhancing mural nodule within cerebellum most 
suggestive of hemangioblastoma. Differential includes metastasis 
and astrocytoma.

Head CT ___:
IMPRESSION: Post-surgical changes as described above. No 
evidence of midline shift. Minimal amount of intraventricular 
hemorrhage.

MRI Head ___:
IMPRESSION:
Postoperative changes in the posterior fossa. The cystic portion 
of the
previously noted lesion in this locale has decompressed. There 
is a small
amount of nodular enhancement along the medial and inferior 
aspect of the
cavity which could represent residual nodular neoplasm.
Possible small focus of acute ischemia in the left inferior 
cerebellum.
A tiny acute ischemic focus is also seen in the right aspect of 
the pons.

MRI Head ___:
IMPRESSION: Status post resection of cerebellar mass with no 
definite
residual nodular enhancement seen when accounting for blood 
products and
vascular enhancement at the surgical site. Small area of blood 
products in
the right frontal lobe as seen on the recent CT at the site of 
previously
placed ventricular drain. Small bilateral subdurals which appear
postoperative in nature. No acute infarct seen.

___ ___:
IMPRESSION: No evidence of DVT in either lower extremity.

CT head ___:
(Preliminary) No new intracranial hemorrhage or mass effect 
seen. Slight decrease in small hemorrhages related to prior 
ventriculostomy cath. and in area of resection bed. 

CXR ___:
(Preliminary) Pneumonia in the right lower lobe.

CXR ___:

 
Brief Hospital Course:
___ electively admitted for resection of his L occipital brain 
mass. Brought to the OR on ___ for craniotomy. Patient 
tolerated procedure well briefly recovered in PACU then was sent 
to the ICU for further recovery. 
POD1 ___ was extubated. Had MRI, which showed 
hemorrhage in the operative bed. Cystic cavity has was 
decompressed to a large extent. There is solid nodular 
enhancement along medial/inferior aspect of the postop cavity 
which could represent residual neoplasm.
POD4 (___) NGT discontinued.
POD5 (___) Drain removed without incident, exam stable. 
Patient was transferred to floor.
POD6 (___) Bilateral lateral gaze deficit with intact visual 
fields, Right facial droop w/tongue deviation, difficulty 
closing right eye; patient states since surgery. Patient taken 
back to OR for further resection of residual mass.
POD7/1 (___) Exam was stable from pre-op. Wound C/D/I. 
transferred to floor. Stat head CT done for headache was normal.
POD10/4 (___) exam essentially stable with improvemnt in 
tongue deviation, and EOM. speech and swallow questioned 
aspiration , diet changed to ground/honey thick. Staples 
removed. 
POD11/5 (___) Exam was stable, however patient was more 
sleepy,  Patient was febrile overnight to 101.6 and fever work 
up ensued. Chest x-ray showed a right lower lobe consolidation. 
He was started on Levoquin treatment for presumed aspiration 
pneumonia. 
Lower extremity duplex was negative for DVT.  Head CT negative.  

POD12/6 (___) Patient has been afebrile for 24hours.  Exam is 
stable. Repeat chest x-ray shows no interval increase in right 
lower lobe consolidation. Patient receiving day 2 or 5 of 
Levaquin. 
 
Medications on Admission:
Flonase BID, Reglan 10mg TId, Zolmitriptan prn, Viagra prn, 
Astelin BID, Inderal 20mg qhs

 
Discharge Medications:
1. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed.  
2. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
4. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dryness.  
5. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
6. Docusate Sodium 50 mg/5 mL Liquid Sig: Two (2)  PO BID (2 
times a day).  
7. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
8. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO TID (3 times a day).  
10. White Petrolatum-Mineral Oil 42.5-56.8 % Ointment Sig: One 
(1) Appl Ophthalmic TID (3 times a day) as needed.  
11. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
12. Insulin Regular Human 100 unit/mL Solution Sig: One (1)  
Injection ASDIR (AS DIRECTED).  
13. Metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO TID (3 times 
a day) as needed for pro-motility.  
14. Erythromycin 5 mg/g Ointment Sig: One (1)  Ophthalmic QID (4 
times a day) as needed for proph for presumed corneal abrasion 
for 5 days.  
15. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed for dry nasal mucous membranes.  
16. Levofloxacin in D5W 750 mg/150 mL Piggyback Sig: One (1)  
Intravenous DAILY (Daily) for 4 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left Suboccipital Brain Mass

 
Discharge Condition:
Neurologically stable

 
Discharge Instructions:
Please continue Levaquin 750mg Daily for three more days, to end 
on ___

General Instructions

•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•You may wash your hair only after sutures and/or staples have 
been removed. 
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•You have been prescribed an anti-seizure medicine, take it as 
prescribed and follow up with laboratory blood drawing in one 
week.  Please have results faxed to ___.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101° F.

 
Followup Instructions:
___